US07456164B2
Intermediate 5: 1-(3-Chloro-propyl)-pyrrolidine
Pyrrolidine (10 g, 0.14 mol), acetone (28 ml), 5M NaOH solution (21 ml) and 1-bromo-3-chloropropane (24.4 g, 0.15 mol) were stirred together under N2 for 8 hours. The organic layer was separated and concentrated in vacuo. The crude product was purified by vacuum distillation (b.p. 90° C./30 mbar) to give the title compound (11.7 g, 57%) as a colourless oil.

reactant | Pyrrolidine | 0.14 mol, 10 g | N1CCCC1 | C4H9N
reactant | NaOH | 5M, 21 ml | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | 0.15 mol, 24.4 g | BrCCCCl | C3H6BrCl
solvent | acetone | 28 ml | CC(=O)C | C3H6O
product | 1-(3-Chloro-propyl)-pyrrolidine | 11.7 g, 57% | ClCCCN1CCCC1 | C7H14ClN
